US06479486B2
2,3-Dihydro-7-iodo-2-methyl-5-trifluoromethoxybenzofuran
Iodine (2.8 g, 11 mmol) was added in few portions to a stirred mixture of 2,3-dihydro-2-methyl-5-trifluoromethoxybenzofuran (Description 21; 2.8 g, 12.8 mmol), silver(I) trifluoroacetate (3.5 g, 15.8 mmol) in chloroform (60 ml). The mixture was stirred at room temperature for 1 hour, filtered through a pad of Celite™ and concentrated. The residue was treated with iso-hexane (150 ml), washed with aqueous sodium sulphite. The organic layer was dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:diethyl ether 0-4%) to give the title compound (3.76 g, 85%).

reactant | Iodine | 11 mmol, 2.8 g | II | I2
reactant | 2,3-dihydro-2-methyl-5-trifluoromethoxybenzofuran | 12.8 mmol, 2.8 g | CC1OC2=C(C1)C=C(C=C2)OC(F)(F)F | C10H9F3O2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver(I) trifluoroacetate | 15.8 mmol, 3.5 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 2,3-Dihydro-7-iodo-2-methyl-5-trifluoromethoxybenzofuran | 3.76 g, 85% | IC1=CC(=CC=2CC(OC21)C)OC(F)(F)F | C10H8F3IO2
